US08835659B2
Preparation of 2-bromo-3-(3,5-difluorophenyl)benzofuran-4,6-diol, with the Following Structural Formula
This compound was prepared using Method B from 3,5-dimethoxyphenol and 2-bromo-1-(3,5-difluorophenyl)ethanone: Yield 14% following procedures B.2, B.3 and B.5; m.p. 121-122° C.; IR 3379, 1620, 1591, 1429, 1121, 1069 cm−1; 1H-NMR (500 MHz, δ ppm, DMSO-d6) 9.25 (s, 1H), 9.24 (s, 1H), 7.02 (t, J=8.8 Hz, 1H), 6.72 (d, J=6.4 Hz, 2H), 6.28 (s, 1H), 6.06 (s, 1H); 13C NMR (126 MHz, δ ppm, CDCl3) 163.4 (dd, J=246.0 Hz, 13.4 Hz), 157.5, 156.7, 154.7, 153.2, 139.3 (t, J=10.6 Hz), 115.8, 114.9 (dd, J=7.5 Hz, 17.0 Hz), 112.0, 102.8 (t, J=25.6 Hz), 98.9, 90.4.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(3,5-difluorophenyl)ethanone | BrCC(=O)C1=CC(=CC(=C1)F)F | C8H5BrF2O
product | 2-bromo-3-(3,5-difluorophenyl)benzofuran-4,6-diol | Yield 14% | BrC=1OC=2C(C1C1=CC(=CC(=C1)F)F)=C(C=C(C2)O)O | C14H7BrF2O3
